US06972287B1
Preparation of 2-[(4-Iodophenyl)amino]benzoic acid
A mixture of o-bromobenzoic acid potassium salt (47.8 g, 0.2 mol), 4-iodoaniline (43.8 g, 0.2 mol), K2CO3 (13.8 g, 0.1 mol), and cupric acetate (2.87 g, 6%) in diglyme (100 mL) was heated to reflux for 30 minutes. The reaction mixture was diluted with H2O (1.0 L) and filtered. The filtrate was acidified with diluted AcOH. The resulting precipitate was collected by filtration, washed with H2O and dried in a vacuum at 50° C. for 16 hours. Recrystallization from EtOAc gave the desired product, a solid (29.7 g, 0.087 mol, 44%). mp 205-206° C.

reactant | o-bromobenzoic acid potassium salt | 0.2 mol, 47.8 g | [K+].BrC1=C(C(=O)[O-])C=CC=C1
reactant | 4-iodoaniline | 0.2 mol, 43.8 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | K2CO3 | 0.1 mol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | diglyme | 100 mL | COCCOCCOC | C6H14O3
solvent | H2O | 1.0 L | O | H2O
product | 2-[(4-Iodophenyl)amino]benzoic acid | IC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C13H10INO2
